US08217064B2
To a suspension of NaH (0.65 g, 60% in paraffin oil) in DMF (100 mL), slowly added a mixture of ethyl 2-(3-bromo-5-chloro-4-(2,2,2-trifluoroethoxy)phenyl)acetate (3.0 g, 6.8 mmol) and 1,3-dibromo propane (1.61 g, 8.0 mmol) dissolved in DMF (20 mL) at 0° C. for 15 min under an atmosphere of nitrogen. The reaction mixture was allowed stir at 0° C. for 15 min, upon which the reaction mixture was poured onto crushed ice and extracted with ethyl acetate (2×50 mL). The combined organic layers were washed with water, brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by Flash column chromatography to give ethyl 1-(3-bromo-5-chloro-4-(2,2,2-trifluoroethoxy)phenyl)cyclobutanecarboxylate (2.12 g) as a thick syrup.

reactant | NaH | 0.65 g | [H-].[Na+]
reactant | ethyl 2-(3-bromo-5-chloro-4-(2,2,2-trifluoroethoxy)phenyl)acetate | 6.8 mmol, 3.0 g | BrC=1C=C(C=C(C1OCC(F)(F)F)Cl)CC(=O)OCC | C12H11BrClF3O3
reactant | 1,3-dibromo propane | 8.0 mmol, 1.61 g | BrCCCBr | C3H6Br2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | ethyl 1-(3-bromo-5-chloro-4-(2,2,2-trifluoroethoxy)phenyl)cyclobutanecarboxylate | 2.12 g | BrC=1C=C(C=C(C1OCC(F)(F)F)Cl)C1(CCC1)C(=O)OCC | C15H15BrClF3O3
